US04105790
Methyl 4-(azidoacetyl)phenoxyacetate (2.49g.) was added to a stirred solution of triphenylphosphine (2.62g.) in tetrahydrofuran (20ml.) maintained at 40° C. The solution gradually became orange during the addition of the azido compound and was further stirred at 40° C. for 15 minutes after the addition was complete. 1N-Hydrochloric acid (20ml.) was then added and the mixture stirred at 40° C. for 15 minutes. The mixture was cooled to room temperature and then ether (200ml.) was added. The ethereal layer was decanted off and the brown oily residue was dissolved in toluene (20ml.) and the solution obtained was evaporated in vacuo. The solid residue formed was then recrystallised twice from methanol to give methyl 4-(aminoacetyl)phenoxyacetate hydrochloride (0.7g.), m.p. 202°-204° C.

reactant | Methyl 4-(azidoacetyl)phenoxyacetate | 2.49g | N(=[N+]=[N-])CC(=O)C1=CC=C(OCC(=O)OC)C=C1 | C11H11N3O4
reactant | triphenylphosphine | 2.62g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Hydrochloric acid | 20ml | Cl | ClH
reactant | ether | 200ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 20ml | O1CCCC1 | C4H8O
product | methyl 4-(aminoacetyl)phenoxyacetate hydrochloride | 0.7g | Cl.NCC(=O)C1=CC=C(OCC(=O)OC)C=C1 | InChI=1S/C11H13NO4.ClH/c1-15-11(14)7-16-9-4-2-8(3-5-9)10(13)6-12;/h2-5H,6-7,12H2,1H3;1H
